### PR TITLE
chore: deprecate old comparison classes

### PR DESCRIPTION
**Pull request by fgdorais**
Note that Std uses `.isLE`/`.isGE` where Batteries would use `≠ .gt`/`≠ .lt`. I'm not sure what the best way to handle that. I'm currently ignoring the difference.

### CODE REVIEW

**Comment by fgdorais** [comment]
I'm still not sure but what's been convenient so far is to add ne variants of common lemmas as necessary. I'm unapologetically using `le`/`ge` instead of `ne_gt`/`ne_lt` in many places since I can't justify the extra keystrokes and the confusing names.

PS: The bijection `3 choose 2` to `3 choose 1` is well known to lead to this kind of notational issues in regular maths, so I'm not holding my breath for a perfect solution.

**Comment by fgdorais** [comment]
Rant: `compareOfLessAndEq` is one of the worst possible choices for the default definition! 

Sorry, just venting some steam...

**Comment by digama0** [comment]
> Rant: `compareOfLessAndEq` is one of the worst possible choices for the default definition!
> 
> Sorry, just venting some steam...

I know, it was just that the theorems were all stated in terms of lt so the easiest way to get a lawful cmp for use in ordered maps was through `compareOfLessAndEq`.

File: Batteries/Classes/Deprecated.lean [hunk 1]
```diff
@@ -0,0 +1,431 @@
...
+
+example [inst : Std.TransCmp cmp] : Std.TransCmp (flip cmp) := inferInstance
+
+/-- `BEqCmp cmp` asserts that `cmp x y = .eq` and `x == y` coincide. -/
+@[deprecated Std.LawfulBEqCmp (since := "2025-07-01")]
+class BEqCmp [BEq α] (cmp : α → α → Ordering) : Prop where
+  /-- `cmp x y = .eq` holds iff `x == y` is true. -/
+  cmp_iff_beq : cmp x y = .eq ↔ x == y
+
+attribute [deprecated Std.LawfulBEqCmp.compare_eq_iff_beq (since := "2025-07-01")] BEqCmp.cmp_iff_beq
```
Comment (fgdorais) [inline Batteries/Classes/Deprecated.lean]:
```suggestion
attribute [deprecated Std.LawfulBEqCmp.compare_eq_iff_beq 
  (since := "2025-07-01")] BEqCmp.cmp_iff_beq
```

File: Batteries/Classes/Deprecated.lean [hunk 2]
```diff
@@ -0,0 +1,432 @@
...
+
+Examples are to ensure that old instances have equivalent new instances.
+-/
+
+set_option linter.deprecated false
+
+namespace Batteries
+
+/-- `OrientedCmp cmp` asserts that `cmp` is determined by the relation `cmp x y = .lt`. -/
+@[deprecated "Std.OrientedCmp" (since := "2025-07-01")]
```
Comment (digama0) [inline Batteries/Classes/Deprecated.lean]:
```suggestion
@[deprecated Std.OrientedCmp (since := "2025-07-01")]
```

File: Batteries/Classes/Deprecated.lean [hunk 3]
```diff
@@ -0,0 +1,432 @@
...
+  cmp_iff_lt : cmp x y = .lt ↔ x < y
+
+attribute [deprecated Std.LawfulLTCmp.eq_lt_iff_lt (since := "2025-07-01")] LTCmp.cmp_iff_lt
+
+@[deprecated Std.LawfulLTCmp.eq_gt_iff_gt (since := "2025-07-01")]
+theorem LTCmp.cmp_iff_gt [LT α] [LTCmp (α := α) cmp] : cmp x y = .gt ↔ y < x := by
+  rw [OrientedCmp.cmp_eq_gt, LTCmp.cmp_iff_lt]
+
+/-- `LECmp cmp` asserts that `cmp x y ≠ .gt` and `x ≤ y` coincide. -/
+@[deprecated "Std.LawfulLECmp" (since := "2025-07-01")]
```
Comment (digama0) [inline Batteries/Classes/Deprecated.lean]:
```suggestion
@[deprecated Std.LawfulLECmp (since := "2025-07-01")]
```

File: Batteries/Classes/Deprecated.lean [hunk 4]
```diff
@@ -0,0 +1,432 @@
...
+
+attribute [deprecated Std.LawfulLECmp.ne_gt_iff_le (since := "2025-07-01")] LECmp.cmp_iff_le
+
+@[deprecated Std.LawfulLECmp.ne_lt_iff_ge (since := "2025-07-01")]
+theorem LECmp.cmp_iff_ge [LE α] [LECmp (α := α) cmp] : cmp x y ≠ .lt ↔ y ≤ x := by
+  rw [← OrientedCmp.cmp_ne_gt, LECmp.cmp_iff_le]
+
+/-- `LawfulCmp cmp` asserts that the `LE`, `LT`, `BEq` instances are all coherent with each other
+and with `cmp`, describing a strict weak order (a linear order except for antisymmetry). -/
+@[deprecated "Std.LawfulBCmp" (since := "2025-07-01")]
```
Comment (digama0) [inline Batteries/Classes/Deprecated.lean]:
```suggestion
@[deprecated Std.LawfulBCmp (since := "2025-07-01")]
```
